US05962682
In analogy to Example 121, by coupling 3-(2,3-dihydroxy-propoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanyl-benzenesulphonylamino)-benzoic acid with 1-acetoxycarbonyl-piperazine there was obtained ethyl 4-[3-(2,3-dihydroxy-propoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanylbenzenesulphonylamino)-benzoyl]-piperazine-1-carboxylate as a white foam.

reactant | 3-(2,3-dihydroxy-propoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanyl-benzenesulphonylamino)-benzoic acid | OC(COC=1C=C(C(=O)O)C=C(C1OC1=CC(=CC=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)SC)CO | C24H25NO9S2
reactant | 1-acetoxycarbonyl-piperazine | C(C)(=O)OC(=O)N1CCNCC1 | C7H12N2O3
product | ethyl 4-[3-(2,3-dihydroxy-propoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanylbenzenesulphonylamino)-benzoyl]-piperazine-1-carboxylate | OC(COC=1C=C(C(=O)N2CCN(CC2)C(=O)OCC)C=C(C1OC1=CC(=CC=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)SC)CO | C31H37N3O10S2
